US07550478B2
6-methyl-3-phenyl-5H-benzo[4,5-]cyclohepta[1,2-b]pyridin-5-one
6-bromo-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (10 mg, 0.027 mmol), trimethylboroxine (10 μL, 0.071 mmol), tetrakis(triphenylphosphine)palladium (0) (5 mg, 0.004 mmol), and potassium carbonate (15 mg, 0.108 mmol) were combined in a dry flask. The flask was purged with argon and 0.5 mL of 10% aqueous dioxane were added. Argon was bubbled through the solution for 5 minutes and the solution was stirred and heated to 100° C. After 12 hours, the reaction mixture was filtered through a pad of Celite, eluted with EtOAc, washed with brine, dried over sodium sulfate, filtered, concentrated and purified by reverse phase HPLC (30-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 9.11 (d, 1H), 8.54 (d, 1H), 7.80 (d, 2H), 7.54 (m, 5H), 7.48 (m, 2H), 7.26 (d, 2H), 2.56 (s, 3H). LRMS (APCI) calculated for C21H16NO [M+H]+, 298.1; found 298.1

reactant | 6-bromo-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.027 mmol, 10 mg | BrC1=CC=CC2=C1C(C=1C(=NC=C(C1)C1=CC=CC=C1)C=C2)=O | C20H12BrNO
reactant | trimethylboroxine | 0.071 mmol, 10 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 0.108 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.004 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-methyl-3-phenyl-5H-benzo[4,5-]cyclohepta[1,2-b]pyridin-5-one | CC1=CC=CC2=C1C(C=1C(=NC=C(C1)C1=CC=CC=C1)C=C2)=O | C21H15NO
